US07723368B2
Step 2: Synthesis of 4-(2-fluoro-5-((triisopropylsilyl)ethynyl)phenyl)morpholine
To a CEM snap top microwave vial (10 ml) equipped with a magnetic stir bar (3×10 mm) was added 4-(5-bromo-2-fluorophenyl)morpholine (390 mg, 1.50 mmol) in triethylamine (1.5 mL). Copper iodide (12 mg, 0.060 mmol), Tetrakis(triphenylphosphine) palladium (35 mg, 0.030 mmol) and triisopropylsilyl-acetylene (0.390 mg, 2.14 mmol) were added at room temperature. The reaction was capped and irradiated in a CEM Explorer microwave at 80° C. for 30 minutes then forced air-cooled. The crude material was loaded onto silica gel and chased with dichloromethane. Purification by chromatography (hexanes) afforded 540 mg of an oil (quant); 1H NMR (400 MHz, DMSO-d6) δ ppm 1.06-1.10 (m, 21H) 3.00 (t, J=4.6 Hz, 4H) 3.71 (t, J=4.6 Hz, 4H) 7.01 (dd, J=8.5, 2.0 Hz, 1H) 7.08 (ddd, J=4.9, 2.9, 2.6 Hz, 1H) 7.11-7.18 (m, 1H); MS (ES) m/z 362.2 [M+H]+

reactant | 4-(5-bromo-2-fluorophenyl)morpholine | 1.50 mmol, 390 mg | BrC=1C=CC(=C(C1)N1CCOCC1)F | C10H11BrFNO
reactant | triisopropylsilyl-acetylene | 2.14 mmol, 0.390 mg | C(C)(C)[Si](C(C)C)(C(C)C)C#C | C11H22Si
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
catalyst | Copper iodide | 0.060 mmol, 12 mg | [Cu](I)I
catalyst | Tetrakis(triphenylphosphine) palladium | 0.030 mmol, 35 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(2-fluoro-5-((triisopropylsilyl)ethynyl)phenyl)morpholine | 540 mg | FC1=C(C=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)N1CCOCC1 | C21H32FNOSi
